US09351964B2
Step-1: To a stirred solution of 4-hydroxytetrahydropyran (3.80 g, 0.0373 mol) in dry DMF (50 mL) was added 95% NaH solid (1.12 g, 0.0466 mol) in small portions over 5-10 min. After the evolution of gas had subsided, 4-chlorobenzonitrile (5.18 g, 0.038 mol) was added in one portion, and the mixture heated to 60° C. overnite. The mixture was diluted with tBuOH (about 5 mL) and neutralized to pH 7 using glacial AcOH. The DMF was concentrated in vacuo, and the crude product chromatographed over a 120 g Isco column using 30% DCM/hexanes to DCM as an eluent to get step-1 product, 4-(tetrahydropyran-4-yloxy)benzonitrile), as a white solid. (5.7 g, 76%): LC Rt=2.72; 1H NMR (300 MHz, (CD3)2CO-d6) δ 1.63-1.75 (m, 2H), 2.02-2.10 (m, 2H), 3.55 (ddd, J=11.8, 9.1, 3.3 Hz, 2H), 3.90 (dt, J=12.0, 4.5 Hz, 2H), 4.76 (septet, J=4.5 Hz, 1H), 7.16 (d, J=9 Hz, 2H), 7.69 (d, J=9 Hz, 2H).

reactant | 4-hydroxytetrahydropyran | 0.0373 mol, 3.80 g | OC1CCOCC1 | C5H10O2
reactant | NaH | 0.0466 mol, 1.12 g | [H-].[Na+]
reactant | 4-chlorobenzonitrile | 0.038 mol, 5.18 g | ClC1=CC=C(C#N)C=C1 | C7H4ClN
reactant | AcOH | CC(=O)O | C2H4O2
solvent | DMF | 50 mL | CN(C)C=O | C3H7NO
solvent | tBuOH | about 5 mL | CC(C)(C)O | C4H10O
product | 4-(tetrahydropyran-4-yloxy)benzonitrile | O1CCC(CC1)OC1=CC=C(C#N)C=C1 | C12H13NO2
